US04749712
5-Methyl-2,3-bis(4-methoxyphenyl)thiophene
A solution of 2,3-bis(4-methoxyphenyl)thiophene (4.4 g, 15 mmole) in 100 ml of toluene was dried by distilling off 75 ml of toluene. The solution was diluted with 150 ml of diethyl ether, cooled to 0°, and treated dropwise with 1.6M n-butyl lithium (13.5 ml, 1.4 equiv.). The reaction mixture was heated at reflux for 1.5 hours, cooled to 5°, treated with a solution of methyl iodide (2 ml, 2.1 equiv.) in 10 ml of diethyl ether, and then heated at reflux for an additional 2.5 hours. The cooled reaction mixture was poured into water and extracted with ethyl acetate. The organic extracts were washed with 1N HCl and brine, dried, and concentrated in vacuo. Recrystallization from ethanol provided the title compound (3 g, 64%), m.p. 93°-97°. Proton nuclear magnetic resonance (NMR) was consistent with the assigned structure.

reactant | 2,3-bis(4-methoxyphenyl)thiophene | 15 mmole, 4.4 g | COC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)OC | C18H16O2S
reactant | n-butyl lithium | 1.6M, 13.5 ml, 1.4 equiv. | C(CCC)[Li]
reactant | methyl iodide | 2 ml, 2.1 equiv. | CI | CH3I
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 5-Methyl-2,3-bis(4-methoxyphenyl)thiophene | 3 g, 64% | CC1=CC(=C(S1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H18O2S
